data/mechanism_extracts/ChemRxiv/10.26434_chemrxiv-2025-8zr6h_si2.json
{"doi": "10.26434_chemrxiv-2025-8zr6h_si2", "journal": "ChemRxiv", "is_review": false, "rxn_class_summary": "Cobalt-catalyzed enantioselective migratory insertion of an alkene into a Co-aryl bond generating stereoisomeric cobaltacyclic intermediates studied by DFT", "mechanism_family": ["electrocatalysis_inner_sphere", "concerted"], "electrochemical_role": null, "key_intermediates": [{"name": "Co(III)-aryl alkene complex Int1A (pro-R coordination, acenaphthylene bound)", "smiles": null, "role": "reactive"}, {"name": "Migratory insertion transition state TS(1-2)A", "smiles": null, "role": "transient"}, {"name": "Cobaltacyclic alkyl intermediate Int2A after 1,2-insertion", "smiles": null, "role": "reactive"}, {"name": "Diastereomeric Co(III)-aryl alkene complex Int1B", "smiles": null, "role": "reactive"}, {"name": "Migratory insertion transition state TS(1-2)B", "smiles": null, "role": "transient"}, {"name": "Diastereomeric cobaltacyclic alkyl intermediate Int2B", "smiles": null, "role": "off_pathway"}], "electron_flow": "Within an inner-sphere Co(III) coordination sphere bearing a pyridyl-imine and an oxazoline (iPr) ligand, the coordinated acenaphthylene undergoes concerted migratory insertion into the Co-aryl bond, producing diastereomeric cobaltacyclic alkyl intermediates Int2A/Int2B via TS(1-2)A/B.", "rate_determining_step": "Migratory insertion of the alkene into the Co-aryl bond (TS(1-2))", "probe_reagents": [], "evidence_types_used": ["DFT"], "evidence_strength": "medium", "notes": "Computational protocol: Gaussian 16, TPSS-D3(BJ)/def2-SVP geometry optimizations in gas phase; PW6B95-D4/def2-TZVPP single points with SMD implicit solvation (acetone ε=20.493 and ethanol ε=24.852, modeling 1:1 acetone/EtOH mixture). Two diastereomeric insertion pathways (A vs B) are compared to rationalize stereoisomer generation; the favored pathway determines product enantio/diastereoselectivity but relative energies are not given on this page."}
